US08470827B2
N-[(1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-({4-[3-(trifluoro ethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine bis(trifluoroacetate) (98 mg, 0.16 mmol), tetrahydro-4H-pyran-4-one (0.044 mL, 0.48 mmol) and triethylamine (0.067 mL, 0.48 mmol) in methylene chloride (5 mL) was added sodium triacetoxyborohydride (68 mg, 0.32 mmol). After being stirred at room temperature overnight, the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3. The aqueous layer was extracted with EtOAc three times. The combined organic layers were dried (MgSO4), concentrated and purified on silica gel eluting with EtOAc to 1% Et3N/EtOAc providing 63 mg (84%) of the desired product, which was further purified by HPLC to give the product as diTFA salt. MS calculated for C25H36F3N3O2: (M+H) 468; found 468.2.

reactant | (1R,3S)-3-isopropyl-3-({4-[3-(trifluoro ethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentanamine bis(trifluoroacetate) | 0.16 mmol, 98 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=CC(=CC=C1)CC(F)(F)F
reactant | tetrahydro-4H-pyran-4-one | 0.48 mmol, 0.044 mL | O1CCC(CC1)=O | C5H8O2
reactant | triethylamine | 0.48 mmol, 0.067 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.32 mmol, 68 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[(1R,3S)-3-isopropyl-3-({4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}carbonyl)cyclopentyl]tetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1CCOCC1)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C25H36F3N3O2
